US08466282B2
5-(4-methoxybutyl)-1-phenyl-1H-1,2,3-triazole-4-carboxylic acid
A solution of sodium hydride (60% in oil, 2 g) in DMF (50 ml) was cooled to 0° C.-5° C., methyl 7-methoxy-3-oxoheptanoate (9.4 g) was added, and the mixture was stirred at 0° C.-5° C. for min. Phenyl azide (6 g) was added, and the mixture was stirred at room temperature for 15 hr. The solvent was concentrated under reduced pressure, and methanol (100 ml) was added to the residue and 4N aqueous sodium hydroxide solution (20 ml) was further added. The mixture was stirred at 60° C. for 1 hr. The solvent was evaporated under reduced pressure and water (100 ml) was added to the residue. 6N Hydrochloric acid was added for neutralization and the mixture was extracted with ethyl acetate (100 ml×2). The extract was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate was concentrated under reduced pressure to give the object product (7.2 g) as a white powder.

reactant | sodium hydride | 2 g | [H-].[Na+]
reactant | methyl 7-methoxy-3-oxoheptanoate | 9.4 g | COCCCCC(CC(=O)OC)=O | C9H16O4
reactant | Phenyl azide | 6 g | C1(=CC=CC=C1)N=[N+]=[N-] | C6H5N3
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 5-(4-methoxybutyl)-1-phenyl-1H-1,2,3-triazole-4-carboxylic acid | 7.2 g | COCCCCC1=C(N=NN1C1=CC=CC=C1)C(=O)O | C14H17N3O3
